### PR TITLE
chore: bump Lean and Mathlib to v4.34.0

### PR DESCRIPTION
**Pull request by dhsorens**
## Summary

Moves CompPoly from Lean/Mathlib v4.33.1 to v4.34.0 and clears everything the bump surfaced, so `lake build --wfail` is clean again. Two commits: the bump with its migration fixes, then a small ToMathlib cleanup.

Lean release notes: https://lean-lang.org/doc/reference/latest/releases/v4.34.0/

### Migration fixes (commit 1)

- **Core lemma renames** (lean4#14501, #14538): `if_pos`/`if_neg` → `ite_eq_left`/`ite_eq_right`, `dif_pos`/`dif_neg` → `dite_eq_left`/`dite_eq_right`, `if_true`/`if_false` → `ite_true`/`ite_false`, `cond_true`/`cond_false`/`eq_false_of_ne_true` → `Bool.*`. About 960 use sites across ~95 files, all mechanical, applied at the exact positions the compiler reported.
- **Mathlib renames**: `List.getElem_inj` → `List.Nodup.getElem_inj` (argument order changed, three call sites adjusted), `List.sum_le_card_nsmul` → `List.sum_le_length_nsmul`.
- **`MvPolynomial.coeff` removed upstream** in favour of `AddMonoidAlgebra.coeff`. Coefficient access is now written `p.coeff m`; `MvPolynomial.coeff_add/zero/neg` become `AddMonoidAlgebra.coeff_add/zero/neg` plus `Finsupp.add_apply/zero_apply/neg_apply`. Touches `ToMathlib/MvPolynomial/Equiv.lean`, `Multilinear/Equiv.lean`, `Multivariate/MvPolyEquiv/{Core,Instances}.lean`, `Multivariate/{Operations,Rename}.lean`, `Univariate/CMvEquiv.lean`. Note `finSuccEquivNth_coeff_coeff` is now stated as `(… ).coeff m = f.coeff (m.insertNth p i)`, matching Mathlib's `finSuccEquiv_coeff_coeff`.
- **Deprecated imports**: `Mathlib.Data.{NNReal,ENNReal}.*` → `Mathlib.Basic.*` in `Data/Nat/Bitwise.lean`.
- **`ToMathlib/Polynomial/Div.lean` deleted**: `Polynomial.smul_divByMonic` landed in Mathlib (`Mathlib.Algebra.Polynomial.RingDivision`), exactly as the file's header anticipated. `Univariate/DivisionCorrectness.lean` now imports the Mathlib module.
- **Tactic drift**: `convert … using 1/2` and `simp` now close a few goals on their own, so the trailing `rfl`/`omega`/`exact Semiring.ext rfl rfl` steps were removed (`Tower/{Abstract,Concrete}/Basis.lean`, `NovelPolynomialBasis.lean`, `LeeOSullivan/Correctness/Combinations.lean`, `Univariate/CMvEquiv.lean`). `Polynomial.coeff` is now a `Finsupp`-valued function, so one `congr 1` became `congr 2` (`Univariate/Lagrange.lean`).

### ToMathlib cleanup (commit 2)

Audit of `CompPoly/ToMathlib/` against Mathlib v4.34.0. Removed the pure duplicates:

- `Polynomial/BivariateEvaluation.lean` (whole file): `eval_comm` is `(Polynomial.map_evalRingHom_eval x a f).symm`. No callers; one docstring in `Bivariate/ToPoly.lean` repointed.
- `BivariateDegree.lean`: `leadingCoeffY_eq_zero`/`leadingCoeffY_ne_zero` (`leadingCoeffY` is definitionally `Polynomial.leadingCoeff`, so `Polynomial.leadingCoeff_eq_zero`/`_ne_zero` apply directly), `mul_ne_zero` (wrapper over `_root_.mul_ne_zero`), `degreeY_mul` (wrapper over `Polynomial.natDegree_mul`, no callers).

Kept, with reasons, for a possible follow-up rather than this PR:

- `Polynomial/Roots.lean`: `card_eval_zero_le_natDegree` and `prod_X_sub_C_dvd` are `Finset`-indexed corollaries of `card_le_degree_of_subset_roots` / `Multiset.prod_X_sub_C_dvd_iff_le_roots`; Mathlib has no indexed form.
- `Polynomial/Irreducible.lean`: `exists_factor_natDegree_le_of_reducible` is strictly stronger than Mathlib's `irreducible_iff_degree_lt` (it yields an irreducible factor, which `Data/Polynomial/Rabin.lean` needs).
- `Order/WithBot.lean`: `WithBot.add_lt_add` has no Mathlib counterpart (only the `WithTop` version exists). Upstreaming candidate.
- `Finsupp/Fin.lean` (`insertNth`/`removeNth`/`snoc`/`init`) and `MvPolynomial/Equiv.lean` (`finSuccEquivNth`) are still absent from Mathlib.

None of the redundancies in commit 2 were introduced by this bump; the Mathlib diff between the two tags only adds `smul_divByMonic` and unrelated `rootMultiplicity`/`divByMonic` lemmas.

## Verification

- `lake build` and `lake build --wfail`: 0 errors, 0 warnings.
- `lake build CompPolyTests CompPolyBenchLib CompPolyBench CompPolyNativeSmoke axiomsweep` and `lake build --wfail CompPolyNativeSmoke`: clean.
- `lake test`: passes, no warnings.
- `lake exe axiomsweep --check`: passes, no new axiom or `sorry` taint; baseline unchanged.
- `./scripts/lint-style.sh`, `./scripts/check-imports.sh`, `python3 ./scripts/check-docs-integrity.py`: clean (docs check only flags files under the untracked `talks/` directory, which is not part of this PR).

### CODE REVIEW

File: CompPoly/ToMathlib/Polynomial/Div.lean [hunk 1]
```diff
@@ -1,35 +0,0 @@
...
-Note, there's a PR to Mathlib that includes this result and this file
-should be deleted if/when that PR is accepted:
-https://github.com/leanprover-community/mathlib4/pull/39868
--/
-
-@[expose] public section
-
-namespace Polynomial
-
-theorem smul_divByMonic {R : Type*} [CommRing R]
```
Comment (dhsorens) [inline CompPoly/ToMathlib/Polynomial/Div.lean:25]: Removed: Mathlib PR #39868 (the one this file's header pointed at) landed and is in v4.34.0 as [`Polynomial.smul_divByMonic`](https://github.com/leanprover-community/mathlib4/blob/v4.34.0/Mathlib/Algebra/Polynomial/RingDivision.lean#L62), same statement under the same `[CommRing R]` assumption. Keeping ours was a hard error (`has already been declared`). The one caller in `Univariate/DivisionCorrectness.lean` now imports `Mathlib.Algebra.Polynomial.RingDivision`.

File: CompPoly/ToMathlib/Polynomial/BivariateEvaluation.lean [hunk 2]
```diff
@@ -1,47 +0,0 @@
...
-variable {F : Type*}
-
-section CommSemiring
-
-variable [CommSemiring F]
-
-/-- Evaluation of a bivariate polynomial is commutative,
-  i.e. evaluating in `X` and then in `Y` is the same as
-  evaluating in `Y` first and then in `X`. -/
-theorem eval_comm {f : Polynomial (Polynomial F)} {a x : F} :
```
Comment (dhsorens) [inline CompPoly/ToMathlib/Polynomial/BivariateEvaluation.lean:35]: Removed: this is [`Polynomial.map_evalRingHom_eval`](https://github.com/leanprover-community/mathlib4/blob/v4.34.0/Mathlib/Algebra/Polynomial/Bivariate.lean#L161) read right to left, since `evalEval x y p` is a reducible `abbrev` for `eval x (eval (C y) p)` ([here](https://github.com/leanprover-community/mathlib4/blob/v4.34.0/Mathlib/Algebra/Polynomial/Bivariate.lean#L44)). Same `[CommSemiring]` assumption. No callers; the docstring in `Bivariate/ToPoly.lean` now points at the Mathlib name. Predates the bump (Mathlib #13845), so it was already redundant at v4.33.1.

File: CompPoly/ToMathlib/Polynomial/BivariateDegree.lean [hunk 3]
```diff
@@ -49,18 +49,6 @@ classical sense if the bivariate polynomial is interpreted as a univariate polyn
 def leadingCoeffY (f : F[X][Y]) : F[X] :=
   f.coeff (natDegree f)
 
-/-- The polynomial coefficient of the highest power of `Y` is `0` if and only if the bivariate
-polynomial is the zero polynomial. -/
-@[simp, grind =]
-theorem leadingCoeffY_eq_zero (f : F[X][Y]) : leadingCoeffY f = 0 ↔ f = 0 := by
```
Comment (dhsorens) [inline CompPoly/ToMathlib/Polynomial/BivariateDegree.lean:55]: Removed: `leadingCoeffY f` is by definition `f.coeff f.natDegree`, which is exactly `Polynomial.leadingCoeff f`, so [`Polynomial.leadingCoeff_eq_zero`](https://github.com/leanprover-community/mathlib4/blob/v4.34.0/Mathlib/Algebra/Polynomial/Degree/Defs.lean#L358) applies to it directly (checked: it typechecks against our statement).

File: CompPoly/ToMathlib/Polynomial/BivariateDegree.lean [hunk 4]
```diff
@@ -49,18 +49,6 @@ classical sense if the bivariate polynomial is interpreted as a univariate polyn
...
-  simp [leadingCoeffY]
-
-/-- The polynomial coefficient of the highest power of `Y` is not `0` if and only if the
-bivariate polynomial is non-zero. -/
-@[simp, grind =]
-lemma leadingCoeffY_ne_zero (f : F[X][Y]) : leadingCoeffY f ≠ 0 ↔ f ≠ 0 := by
```
Comment (dhsorens) [inline CompPoly/ToMathlib/Polynomial/BivariateDegree.lean:61]: Removed: same defeq argument as above, covered by [`Polynomial.leadingCoeff_ne_zero`](https://github.com/leanprover-community/mathlib4/blob/v4.34.0/Mathlib/Algebra/Polynomial/Degree/Defs.lean#L364). The single in-file use (in `exists_x_preserve_natDegreeY`) now calls `Polynomial.leadingCoeff_ne_zero.2` directly.

File: CompPoly/ToMathlib/Polynomial/BivariateDegree.lean [hunk 5]
```diff
@@ -190,19 +178,6 @@ lemma degreeY_as_weighted_deg :
     ]
     simp [Finset.sup'_eq_sup]
 
-/-- Over an integral domain, the product of two non-zero bivariate polynomials is non-zero. -/
-@[grind ←]
-lemma mul_ne_zero [IsDomain F] (f g : F[X][Y]) (hf : f ≠ 0) (hg : g ≠ 0) :
```
Comment (dhsorens) [inline CompPoly/ToMathlib/Polynomial/BivariateDegree.lean:195]: Removed: a wrapper whose body was [`_root_.mul_ne_zero`](https://github.com/leanprover-community/mathlib4/blob/v4.34.0/Mathlib/Algebra/GroupWithZero/Basic.lean#L85), which only needs `NoZeroDivisors`, not `IsDomain`. It also shadowed the root name under `open Polynomial.Bivariate`. Unqualified uses resolve to the root lemma with the same proof term.

File: CompPoly/ToMathlib/Polynomial/BivariateDegree.lean [hunk 6]
```diff
@@ -190,19 +178,6 @@ lemma degreeY_as_weighted_deg :
...
-    f * g ≠ 0 :=
-  _root_.mul_ne_zero hf hg
-
-/-- Over an integral domain, the `Y`-degree of the product of two non-zero bivariate polynomials is
-equal to the sum of their degrees. -/
-@[simp, grind _=_]
-lemma degreeY_mul [IsDomain F] (f g : F[X][Y]) (hf : f ≠ 0) (hg : g ≠ 0) :
```
Comment (dhsorens) [inline CompPoly/ToMathlib/Polynomial/BivariateDegree.lean:202]: Removed: `natDegreeY` unfolds to `Polynomial.natDegree`, so this is [`Polynomial.natDegree_mul`](https://github.com/leanprover-community/mathlib4/blob/v4.34.0/Mathlib/Algebra/Polynomial/Degree/Domain.lean#L35) verbatim (again under the weaker `NoZeroDivisors`). No callers inside or outside ToMathlib.
